US05196538
Preparation of N-(Ethoxycarbonylmethyl)pyridinium Tetraphenylborate
To a solution of 24.61 grams (0.10 mol) of N-(ethoxycarbonylmethyl)pyridinium bromide in 100 milliliters of water, there was added a solution of 34.22 grams (0.10 mol) of sodium tetraphenylborate in 150 milliliters of water. The mixture was diluted with 1 liter of water and filtered. The solid collected was dissolved in methylene chloride, the water layer was separated and the organic layer was dried over MgSO4 and concentrated. Recrystallization from ethyl acetate yielded 21.9 grams of product (45.11% of theory); mp=150°-152° C.

reactant | N-(ethoxycarbonylmethyl)pyridinium bromide | 0.10 mol, 24.61 grams | [Br-].C(C)OC(=O)C[N+]1=CC=CC=C1
reactant | sodium tetraphenylborate | 0.10 mol, 34.22 grams | C1(=CC=CC=C1)[B-](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.[Na+]
solvent | water | 100 milliliters | O | H2O
solvent | water | 150 milliliters | O | H2O
solvent | water | 1 liter | O | H2O
product | N-(Ethoxycarbonylmethyl)pyridinium Tetraphenylborate | 21.9 grams, 45.11% | C1(=CC=CC=C1)[B-](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.C(C)OC(=O)C[N+]1=CC=CC=C1 | InChI=1S/C24H20B.C9H12NO2/c1-5-13-21(14-6-1)25(22-15-7-2-8-16-22,23-17-9-3-10-18-23)24-19-11-4-12-20-24;1-2-12-9(11)8-10-6-4-3-5-7-10/h1-20H;3-7H,2,8H2,1H3/q-1;+1
